US05059602
(4-Amino-3-pyridinyl)phenylmethanone oxime hydrochloride
A solution of (4-amino-3-pyridinyl)phenylmethanone (17 g prepared from N-(3-formyl-4-pyridinyl)-2,2-dimethylpropanamide by utilizing the reaction scheme described in Example 9, 10 and 11 except that phenyl magnesium chloride was used instead of cyclohexyl magnesium chloride) and hydroxylamine hydrochloride (24 g) in 150 ml pyridine was stirred at 90°-95° for two hours and thereafter cooled and concentrated. The residue was stirred with water, basified with sodium carbonate and extracted with dichloromethane. The dried organic layer was concentrated to 20 g waxy solid. This was triturated with acetonitrile to yield 13.6 g solid, m.p. 177°-179°. The filtrate was concentrated to 4.3 g oil and thereafter eluted with 10% methanol in dichloromethane through silica via flash column chromatography to yield an additional 1.8 g product for a total yield of 15.4 g. Eight grams were again eluted with 10% methanol in dichloromethane through silica via flash column chromatography to yield 6.9 g solid, m.p. 178°-180°. A 4.9 g portion was converted to the hydrochloride salt in methanol/ether to yield 3.3 g crystals, d 238°-240°.

reactant | (4-amino-3-pyridinyl)phenylmethanone | NC1=C(C=NC=C1)C(=O)C1=CC=CC=C1 | C12H10N2O
reactant | N-(3-formyl-4-pyridinyl)-2,2-dimethylpropanamide | C(=O)C=1C=NC=CC1NC(C(C)(C)C)=O | C11H14N2O2
reactant | phenyl magnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | hydroxylamine hydrochloride | 24 g | Cl.NO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | (4-Amino-3-pyridinyl)phenylmethanone oxime hydrochloride | 13.6 g | Cl.NC1=C(C=NC=C1)C(=NO)C1=CC=CC=C1 | InChI=1S/C12H11N3O.ClH/c13-11-6-7-14-8-10(11)12(15-16)9-4-2-1-3-5-9;/h1-8,16H,(H2,13,14);1H
